* D:\motor-control-hw-simulations\Adder-V0-2.asc
V3 N001 0 10
R1 N001 N005 3600
V4 Ansteuerung 0 SINE(1.25 1.25 2)
XU3 N005 0 LT1634-2.5
V1 0 N008 10
XU4 0 N007 N001 N008 N006 LTC1052
R2 N007 Ansteuerung 27000
R3 N006 N007 27000
XU1 0 N003 N001 N008 N004 LTC1052
R4 N004 N003 4000
R5 N003 N006 1000
R6 N003 N002 1000
V2 N002 0 1.25
.tran 0 1s 0
.lib LTC.lib
.lib LTC3.lib
.backanno
.end
